US05130439
5-(4'-Methanesulfonyloxymethyl-1,1'-biphenyl-2-yl)-2-triphenylmethyl-2H-tetrazole
To a mixture of 5-(4'-hydroxymethyl-1,1'-biphenyl-2-yl)-2-triphenylmethyl-2H-tetrazole (0.01 m=4.90 g) and potassium carbonate (0.05 m=6.90 g) stirred in 50 mL N,N-dimethylacetamide chilled at 1° C. was added a total of 3.34 g (0.024 m) of methanesulfonyl chloride in portions over 6 hours. The progress of the reaction was monitored by thin layer chromatography or HPLC. The title compound was formed in better than 90% in the mixture which was used in the next example.

reactant | 5-(4'-hydroxymethyl-1,1'-biphenyl-2-yl)-2-triphenylmethyl-2H-tetrazole | 4.90 g | OCC1=CC=C(C=C1)C1=C(C=CC=C1)C=1N=NN(N1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C33H26N4O
reactant | potassium carbonate | 6.90 g | C([O-])([O-])=O.[K+].[K+]
reactant | methanesulfonyl chloride | 3.34 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | N,N-dimethylacetamide | 50 mL | CN(C(C)=O)C | C4H9NO
product | 5-(4'-Methanesulfonyloxymethyl-1,1'-biphenyl-2-yl)-2-triphenylmethyl-2H-tetrazole | CS(=O)(=O)OCC1=CC=C(C=C1)C1=C(C=CC=C1)C=1N=NN(N1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C34H28N4O3S
